US08242104B2
To a rapidly stirred mixture of 4-bromo-2-fluoro-benzamidine hydrochloride (9.84 g, 38.8 mmol), potassium hydrogen carbonate (15.6 g, 154.8 mmol), THF (98 mL) and water (16 mL) at reflux was added a solution of 2-bromo-1-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-ethanone (9.0 g, 38.8 mmol) in THF (19 mL) over 15 min. The resulting mixture was stirred for 18 h at reflux before concentrating in vacuo. The resultant residue was treated with water and the solid formed collected by filtration, washed (water, then 1:1 diethyl ether:cyclohexane then diethyl ether) to give 5-[2-(4-Bromo-2-fluoro-phenyl)-1H-imidazol-4-yl]-1-isopropyl-1H-[1,2,4]triazole as a brown solid (10.1 g, 74%). 1H NMR δ (ppm) (CDCl3): 8.21-8.14 (1H, m), 7.90 (1H, s), 7.80 (1H, s), 7.47-7.38 (2H, m), 7.26 (1H, s), 5.91 (1H, br, s), 1.59 (6H, d, J=6.63 Hz).

reactant | 4-bromo-2-fluoro-benzamidine hydrochloride | 38.8 mmol, 9.84 g | Cl.BrC1=CC(=C(C(=N)N)C=C1)F
reactant | potassium hydrogen carbonate | 154.8 mmol, 15.6 g | C(O)([O-])=O.[K+]
reactant | water | 16 mL | O | H2O
reactant | 2-bromo-1-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-ethanone | 38.8 mmol, 9.0 g | BrCC(=O)C=1N(N=CN1)C(C)C | C7H10BrN3O
solvent | THF | 19 mL | C1CCOC1 | C4H8O
solvent | THF | 98 mL | C1CCOC1 | C4H8O
product | 5-[2-(4-Bromo-2-fluoro-phenyl)-1H-imidazol-4-yl]-1-isopropyl-1H-[1,2,4]triazole | 10.1 g, 74% | BrC1=CC(=C(C=C1)C=1NC=C(N1)C1=NC=NN1C(C)C)F | C14H13BrFN5
